US08802679B2
tert-Butyl 4-(2-fluoroethyl)piperazine-1-carboxylate (460 mg) was dissolved in EtOAc (5 ml), and 4 M hydrogen chloride/EtOAc (2.5 ml) was added thereto. After stirring at room temperature for 7 hours, the precipitated solid was collected by filtration to obtain 1-(2-fluoroethyl)piperazine dihydrochloride (406 mg).

reactant | tert-Butyl 4-(2-fluoroethyl)piperazine-1-carboxylate | 460 mg | FCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H21FN2O2
reactant | hydrogen chloride EtOAc | 4 M, 2.5 ml | Cl.CCOC(=O)C
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | 1-(2-fluoroethyl)piperazine dihydrochloride | 406 mg | Cl.Cl.FCCN1CCNCC1 | InChI=1S/C6H13FN2.2ClH/c7-1-4-9-5-2-8-3-6-9;;/h8H,1-6H2;2*1H
